US07932247B2
N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-3-[(1-methyl-4-piperidinyl)methyl]benzamide
To a solution of phenylmethyl (2S)-4-[(2′-fluoro-5′-{[({3-[(1-methyl-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl)-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate (120 mg, 0.18 mmol) in 5 mL of MeOH, was added 10% Pd/C (60 mg). The mixture was hydrogenated using a hydrogen balloon for 12 hours. After flittering off the catalyst, the mixture was concentrated and the residue was purified by Gilson reverse phase HPLC, eluting with acetonitrile/water/0.1% TFA (10/90 to 70/30, v/v, over 12 min), to give the title compound (65 mg, 41%). LC/MS: m/z, 529 (M+H), 1.29 min.

reactant | phenylmethyl (2S)-4-[(2′-fluoro-5′-{[({3-[(1-methyl-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl)-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | 0.18 mmol, 120 mg | FC1=C(C=C(C=C1)CNC(=O)C1=CC(=CC=C1)CC1CCN(CC1)C)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C | C41H47FN4O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-3-[(1-methyl-4-piperidinyl)methyl]benzamide | 65 mg, 41% | FC1=CC=C(C=C1C1=CC(=CC=C1)CN1C[C@@H](NCC1)C)CNC(C1=CC(=CC=C1)CC1CCN(CC1)C)=O | C33H41FN4O
